US05854273
Stage A: 2-Hydroxymethylene-7-methoxy-3,4-dihydro-2H-naphthalen-1-one
The expected product is prepared from 7-methoxy-1-tetralone and ethyl formate according to the procedure described in Organic Synthesis 1959, 39, 27.

reactant | 7-methoxy-1-tetralone | COC1=CC=C2CCCC(C2=C1)=O | C11H12O2
reactant | ethyl formate | C(=O)OCC | C3H6O2
product | 2-Hydroxymethylene-7-methoxy-3,4-dihydro-2H-naphthalen-1-one | OC=C1C(C2=CC(=CC=C2CC1)OC)=O | C12H12O3
